US09353093B2
To a degassed solution of 1-(2-iodophenyl)urea (2.62 g, 10 mmol, 1 eq), ethynyltrimethyl silane (4.16 mL, 3 eq), and triethylamine (5.58 mL, 4 eq) in anhydrous DMF (15 mL) was added bis(triphenylphosphine)palladium(II) dichloride (702 mg, 0.1 eq) and copper(I) iodide (190.4 mg, 0.1 eq). After the reaction mixture was stirred at room temperature for 30 minutes, it was partitioned between aqueous ammonium chloride and ethyl acetate. The organic layer was isolated, washed further with saturated sodium bicarbonate, brine, and lastly dried with sodium sulfate. The upper solution was decanted, concentrated, and the brown solid residue was treated with a small amount of DCM. The mixture was stirred at room temperature for 30 minute and filtered to obtain 1-{2-[(trimethylsilyl)ethynyl]phenyl}urea as a white solid in 1.645 g. The filtrate was concentrated and the residue was subject to a gradient column chromatography (EtOAc-hex from 1:100 to 1:1) to render 1-{2-[(trimethylsilyl)ethynyl]phenyl}urea with a second crop of 0.432 g in a total yield of 90%.

reactant | 1-(2-iodophenyl)urea | 10 mmol, 2.62 g, 1 eq | IC1=C(C=CC=C1)NC(=O)N | C7H7IN2O
reactant | ethynyltrimethyl silane | 4.16 mL, 3 eq | C(#C)[Si](C)(C)C | C5H10Si
reactant | triethylamine | 5.58 mL, 4 eq | C(C)N(CC)CC | C6H15N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 702 mg, 0.1 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 190.4 mg, 0.1 eq | [Cu]I
product | 1-{2-[(trimethylsilyl)ethynyl]phenyl}urea | yield of 90% | C[Si](C)(C)C#CC1=C(C=CC=C1)NC(=O)N | C12H16N2OSi
